Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Morphine / Latex
 
Attending: ___.
 
Chief Complaint:
left sided numbness and weakness
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
The patient is a ___ year-old woman with a history of sickle-cell 
disease, PE ___ year ago on Coumadin, borderline personality 
disorder and ? of possible seizure disorder who presents with 
left sided numbness and weakness.  According to the patient, 
this started roughly 2 days ago when she noticed intermittent 
left arm numbness.  She reports that the numbness would start at 
her shoulder, and run down to her fingers in seconds.  This 
continued on and off for roughly 2 days.  This morning she 
reports that when she awoke she had numbness in her left arm, 
then shortly after awakening developed  numbness in her face. 
This started on the left side, near her ear, and over seconds 
spread to involve the entire hemiface.  Later in the morning she 
reported sudden onset numbness of her entire left leg, this time 
with no ___, encompassing the entire leg all at once.  She 
reported these symptoms to the nurse, and was sent from her room 
in the ___ to their Urgent care clinic.  There she was also 
noted to have no movement of her left arm or leg (though it was 
unclear when this started, as the patient only complains of 
numbness on that side) so she was referred to ___ for further 
evaluation.  
.
Dr. ___ ___ who has 
been caring for the patient this past week reported that for the 
past week she has had a series of rather non-specific 
complaints.  Initially she mentioned a mild cough, however CXR 
and sputum sample were reported to be normal.  Later she 
complained of dysuria, for which she was started emperically on 
Bactrim, however U/A was reportedly negative.  Later in the week 
she mentioned intermittent numbness on the left arm.  Dr. 
___ not get a chance to examine the patient prior to 
transfer, however provided me with the information for the NP 
who saw her this morning, and has been caring for her for the 
past ___ years.  Unfortunately she did not return my page ___ 
___ ___.  
.
On neuro ROS, the pt denies headache, loss of vision, blurred 
vision, diplopia, dysarthria, dysphagia, lightheadedness, 
vertigo, tinnitus or hearing difficulty. Denies difficulties 
producing or comprehending speech.  Denies focal weakness, 
numbness, parasthesiae. No bowel or bladder incontinence or 
retention. Denies difficulty with gait.
. 
On general review of systems, the pt reports mild, non-radiating 
 ubsternal chest pain as well as non-specific abdominal pain 
with no accompanying N/V or diarrhea.  She also notes some right 
sided joint pain.  She denies recent fever or chills.  No night 
sweats or recent weight loss or gain. Denies cough, shortness of 
breath. No recent change in bowel or bladder habits.  No 
dysuria. Denies rash.
.  
Currently, the patient is minimally conversant though answering 
questions.  She is complaining of persistent left 
sided-numbness.  Given the patient unwillingness to cooperate in 
her history, the above is heavily selected from Dr. ___ 
___.

 
Past Medical History:
1) Sickle cell (HbSS) disease with frequent hospitalizations 
with pain crises discharge just 2 days prior for pain crisis.  
2) Pulmonary embolus in ___  
3) ? CVA in ___  
4) s/p acute chest syndrome requiring intubation in ___  
5) Asthma  
6) Borderline personality disorder/PTSD with history of suicidal 
ideation, past psychiatric hospitalizations  
7) Transfusion-related Hepatitis C  
8) s/p cholecystectomy  
9) Hx of seizure disorder-details unknown  
10) Hx of numerous port-a-cath placements  
11) Hx of coag-negative staph and MSSA line infections  
12) Hyperprolactinemia  
13) Lymphadenopathy L anterior cervical and R inguinal noted on 
last admission -- thought to be due to viral illness, with 
instructions to f/u with her PCP.
 
Social History:
___
Family History:
Mother ___ sickle trait
Father ___ has sickle cell anemia
Family history also includes HTN, HL, DM type II, blindness
 
Physical Exam:
Admission:
Vitals: T: 99.9 P: 83 R: 18  BP: 114/65  SaO2: 98% on RA
General: Awake, cooperative, NAD. 
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx 
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity 
Pulmonary: Lungs CTA bilaterally without R/R/W 
Cardiac: RRR, nl. S1S2, no M/R/G noted 
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted. 
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses
bilaterally. 
Skin: no rashes or lesions noted. .  
LABS: See below.  
Neuro: CN II-XII intact accepting neuro assertion that her 
trigeminal sensation is intact based on corneal reflex.  Left 
sided paresis, unclear if voluntary.  No contralateral muscle 
contraction on leg raise.

By time of discharge, pt had been noted on multiple occasions to 
voluntarily move her L arm when she was distracted.
 
Pertinent Results:
___ 01:10PM URINE  BLOOD-TR NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 10:42AM   WBC-10.7# RBC-2.29* HGB-8.9* HCT-26.2* 
MCV-114*# MCH-38.7* MCHC-33.9 RDW-19.3*
___ 10:42AM   NEUTS-62.2 ___ MONOS-3.2 EOS-3.3 
BASOS-0.7
.
___ 06:09AM BLOOD WBC-8.7 RBC-1.95* Hgb-7.7* Hct-22.3* 
MCV-114* MCH-39.3* MCHC-34.4 RDW-18.3* Plt ___
___ 05:53AM BLOOD WBC-9.4 RBC-1.84* Hgb-7.4* Hct-21.5* 
MCV-117* MCH-40.3* MCHC-34.5 RDW-18.4* Plt ___
___ U/A Negative
___ 01:10PM URINE UCG-NEGATIVE

___ 10:42AM BLOOD ___ PTT-35.9* ___
___ 06:09AM BLOOD ___ PTT-27.9 ___
___ 05:53AM BLOOD ___ PTT-50.6* ___

___ MR HEAD W/O CONTRAST FINDINGS: 
There is no acute infarct identified on diffusion images. There 
is no mass effect, midline shift, or hydrocephalus seen. The 
ventricles and cerebral sulci are normal in size. There is 
slight prominence of the 
cerebellar folia seen particularly at the inferior aspect of 
both cerebellar hemispheres, which are unchanged from previous 
study and indicate mild cerebellar atrophy. There is diffuse low 
signal in the bony structures including clivus, which is 
unchanged from prior study and could be related to patient's 
sickle cell disease given the clinical history on the prior 
study. 
IMPRESSION: No evidence of acute infarct. Mild cerebellar 
atrophy. Low signal within the bony structures could be related 
to sickle cell disease.
.
___ CT HEAD W/O CONTRAST FINDINGS: 
Non-contrast head CT was performed. There is no intra-axial or 
extra-axial hemorrhage, edema, shift of normally midline 
structures, or hydrocephalus. No evidence of acute major 
vascular territorial infarction. The included osseous structures 
appear intact. 
IMPRESSION: No acute intracranial process. 

 
Brief Hospital Course:
Left Sided Numbness and Weakness: Neurology evaluated the 
patient and found that the patient's constellation of symptoms 
was non-physiologic, and found evidence of a factitious exam 
with provocation.  Their assessment was that the patient's 
symptoms were factitious. An MRI was obtained which did not show 
any evidence of an ischemic event. During the hospitalization, 
she was observed to spontaneously move her left side in greeting 
a favorite sitter, and this morning raised her left hand to me 
when making a point about wanting IM pain meds, despite her 
assertions that she is unable to move her left arm.

Psychiatry was consulted, and they agreed that the patient's 
neurologic complaints were of psychiatric etiology, and may 
represent a combination of conversion disorder, factitious 
disorder, and malingering.  They felt that her depression and 
suicidality were stable, but with very concerning features and 
they recommended a 24 hour sitter for the duration of the 
hospitalization. 
.
?Chest Pain: EKG was checked in the ED and is unchanged, they 
felt that CTA was not indicated as the patient was not 
tachycardic and not desaturating.  CXR was checked and showed no 
infection.  Per history this is similar to her prior sickle 
crises.  Per prior note a "flag" was supposed to be formulated 
about this complaint as the patient does this on a regular basis 
and it is often factitious.  There is a safety alert that 
indicates the same.  She was hydrated with ___.  We 
continued her home pain regimen, and did not escalate as we were 
concerned that she may opiate induced hyperalgesia vs a 
psychiatric etiology of her complaints.
.
Sickle Cell Disease:  It remains somewhat unclear if the patient 
is actively sickling, though given her history of falsifying her 
symptoms, it is hard to parse out what pain is organic and what 
pain is supratentorial.  We maintained hydration and continued 
her home regimen.  We have asked that her CBC be checked at the 
accepting facility in followup.
.
Psychiatric history: Psychiatry was consulted and felt initially 
that she had increased suicidality, however one of our psych 
residents who knows her well felt that she is at baseline. 
Sitter was maintained throughout the hospitalization.  Her care 
was discussed with her providers at the ___ (including Dr. 
___, who know her very well, and it was agreed that it 
was in the patient's best interest for her to be transferred to 
the ___, as continuity of care is particularly important 
for this patient.  Her home remerron and celexa were continued.
 
Medications on Admission:
- Remeron 15mg QHS  
- Citalopram 20mg Qday  
- Senna 2 tabs QHS  
- Morphine SR 30Qam/15Qpm  
- Hydroxyurea 1000mg Qday  
- Dilaudid 1mg Q4hr PRN  
- Ibuprofen 600mg Q6hr PRN  
- Lactulose 30cc Qday  
- Bactrim DS bid  
- Zovirax 5% bid  
- Magnesium oxide Qday  
- Dilantin 100mg bid  
- Asmarex inhaler Qday  
- Coumadin 4mg QHS  
- Deferasirox 500mg QHS  
- Famotidine 20mg  
- Folic acid 1mg  
- Gabapentin 300mg QHS  

 
Discharge Medications:
 

1. Citalopram 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
2. Senna 8.6 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime).  
3. Morphine 30 mg Tablet Sustained Release Sig: One (1) Tablet 
Sustained Release PO QAM (once a day (in the morning)).  
4. Morphine 15 mg Tablet Sustained Release Sig: One (1) Tablet 
Sustained Release PO QHS (once a day (at bedtime)).  
5. Hydroxyurea 500 mg Capsule Sig: Two (2) Capsule PO DAILY 
(Daily).  
6. Lactulose 10 gram/15 mL Syrup Sig: Thirty (30) ML PO DAILY 
(Daily).  
7. Acyclovir 5 % Ointment Sig: One (1) Appl Topical BID (2 times 
a day).  
8. Magnesium Oxide 400 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
9. Phenytoin 50 mg Tablet, Chewable Sig: Two (2) Tablet, 
Chewable PO BID (2 times a day).  
10. Fluticasone 110 mcg/Actuation Aerosol Sig: Two (2) Puff 
Inhalation BID (2 times a day).  
11. Famotidine 20 mg Tablet Sig: One (1) Tablet PO Q12H (every 
12 hours).  
12. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
13. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO HS (at 
bedtime).  
14. Diphenhydramine HCl 25 mg Capsule Sig: One (1) Capsule PO 
Q6H (every 6 hours) as needed for itching.  
15. Ondansetron 4 mg Tablet, Rapid Dissolve Sig: One (1) Tablet, 
Rapid Dissolve PO Q8H (every 8 hours) as needed for nausea.  
16. Hydromorphone 2 mg Tablet Sig: ___ Tablets PO Q4H (every 4 
hours) as needed for pain.  
17. Mirtazapine 15 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
18. Acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO TID (3 
times a day).  
19. Ibuprofen 600 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours).  
20. Warfarin 5 mg Tablet Sig: One (1) Tablet PO Once Daily at 4 
___.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Conversion Disorder

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Bedbound.

 
Discharge Instructions:
You were admitted to the hospital with left sided weakness and 
numbness.  Neurology saw you and felt that there was no physical 
cause for your symptoms.  Psychiatry saw you and felt that your 
symptoms were of psychiatric etiology.
.
There were no changes made to your medications
 
Followup Instructions:
___